Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:8],1.71797320491
[O:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][H:9]>>[C:6]([H:7])#[C:8][H:9].[O:1][O:2][C:3]#[C:4][H:5],0.256515308738
[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:9](=[C:7][H:8])[H:10]>>[O:1]=[C:2]1[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]1[H:10],-4.70786742176
[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4](/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3],5.0402106496900005
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],1.27316313866
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:4],1.7931835937799998
[H:1][C:2][O:3][O:4].[H:5]>>[H:1][C:2][O:3][O:4][H:5],-4.56360317809
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],5.54593608656
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:11]([H:12])([H:13])[H:14].[H:10],3.69534045234
[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.59243816745
[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[O:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.86307694756
[H:1][O:2][c:3]1[c:4][c:5]([H:6])[c:7]([H:8])[o:9]1>>[H:1][O:2][C:3]([C:4]#[C:5][H:6])[O:9][C:7][H:8],3.25702350213
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:8][O:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],2.77382689363
[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]([H:7])([H:8])[O:9][C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5][C:10]([O:9][C:6]([H:7])[H:8])([H:11])[H:12],3.0464361628900005
[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.5774020896900005
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2],6.927327327060001
[C:8]#[C:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]#[C:9][H:10],-6.285037090580001
[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-0.10372595123
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4](#[C:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3],2.86532404956
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7]/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:6],1.6398281697
[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3](=[O:4])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.340086823509
[C:1]#[C:2][O:3][C:4]#[C:5][C:7]([H:8])([H:9])[H:10].[H:6]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-2.58985929243
[H:1][C:2]=[C:3]([C:4]([O:5][H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([C:4]([O:5][H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],5.07762056689
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9].[O:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13],-1.36658086949
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:3],4.8224072076
[H:1][O:2]/[C:3](=[C:4]\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.63050025807
[H:1][C:2]#[C:3][C:5]([C:6]#[C:7][H:8])[O:9][H:10].[H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[C:6]#[C:7][H:8])[O:9][H:10],-1.45619852522
[C:2](#[C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.81783829037
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.74713777626
